US07122558B2
Preparation of 2-Hydroxy-2-thien-2-ylheptanoic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester
2.7 g of 2-Hydroxy-2-thien-2-ylheptanoic acid methyl ester (Intermediate I-9) (0.011 mol) were dissolved in 70 ml of toluene. To this solution were added 1.63 g (0.0128 mol) of (3R)-3-hydroxy-1-azabicyclo[2.2.2]octane and 0.18 g (0.0045 mol) of HNa (60% dispersion in mineral oil). The mixture was refluxed with continuous removal of distillate with replacement with fresh toluene when necessary for 1 hour. The cooled mixture was extracted with 1N HCl acid, the aqueous layer washed with ether, basified with K2CO3 and extracted with CHCl3. The organic layer was washed with water, dried over MgSO4 and evaporated. The yield was 2.85 g (76%) of the title product as a mixture of diastereomers, structure confirmed by 1H-NMR.

reactant | 2-Hydroxy-2-thien-2-ylheptanoic acid methyl ester | 0.011 mol, 2.7 g | COC(C(CCCCC)(C=1SC=CC1)O)=O | C12H18O3S
reactant | (3R)-3-hydroxy-1-azabicyclo[2.2.2]octane | 0.0128 mol, 1.63 g | O[C@H]1CN2CCC1CC2 | C7H13NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-2-thien-2-ylheptanoic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(C(CCCCC)(C=2SC=CC2)O)=O | C18H27NO3S
